US05175162
To a solution of 25 g of 4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetonitrile in 100 ml of acetic acid is added 50 ml of concentrated hydrochloric acid and the mixture is refluxed under heating for 2 hours. Then, the mixture is poured into 500 ml of ice-cold water. The precipitated crystals are collected by filtration, washed with water and recrystallized from a mixed solvent of toluene and isopropyl ether to give 16.5 g of 4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetic acid as white crystals, melting at 124°-127° C.

reactant | 4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetonitrile | 25 g | O=C1C2=C(SCC1CC#N)SC=C2 | C9H7NOS2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetic acid | 16.5 g | O=C1C2=C(SCC1CC(=O)O)SC=C2 | C9H8O3S2
